US04151172
(c) [Bis(2-propenyloxy)phosphinyl]Acetyl-L-Proline, tert-Butyl Ester
[Bis(2-propenyloxy)phosphinyl]acetic acid (7.0 g., 0.032 mol.) is dissolved in 200 ml. of acetonitrile and stirred in an ice bath under a drying tube. 1,1'-Carbonyldiimidazole (5.5 g., 0.032 mol.) is then added and the mixture is stirred for 45 minutes. L-Proline t-butyl ester (5.5 g., 0.032 mol.) is then added, the ice bath removed, and the mixture stirred overnight. The solution is then evaporated in vacuo and the residue taken up in ethyl acetate and washed with 5% potassium bisulfate, saturated sodium bicarbonate, and brine, then dried (MgSO4) and evaporated to a viscous liquid (10.7 g., 89%). The product [Bis(2-propenyloxy)phosphinyl]acetyl-L-proline, tert-butyl ester is substantially pure by tlc (Rf =0.35, silica gel, ethyl acetate; several trace impurities).

reactant | [Bis(2-propenyloxy)phosphinyl]acetic acid | 0.032 mol, 7.0 g | C(C=C)OP(=O)(OCC=C)CC(=O)O | C8H13O5P
reactant | 1,1'-Carbonyldiimidazole | 0.032 mol, 5.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | L-Proline t-butyl ester | 0.032 mol, 5.5 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | [Bis(2-propenyloxy)phosphinyl]Acetyl-L-Proline, tert-Butyl Ester | C(C=C)OP(=O)(OCC=C)CC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C17H28NO6P
